US06133263
3-(7-Methoxy-benzo[1,3]dioxol-5-yl)-5-(4-methoxy-phenyl)-5-(2-morpholin-4-yl-ethoxy)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one
To 125 mL dichloromethane was added 5-Hydroxy-3-(7-methoxy-benzo[1,3]dioxol-5-yl)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one 3.25 g (6.06 mmol), giving a suspension. 4-(2-Hydroxyethyl)morpholine 3.24 g (24.76 mmol) was added, and the mixture was purged with anhydrous HCl gas until saturated. After 24 hours at room temperature, the mixture was evaporated in vacuo and the residue was suspended in warm ethyl ether and water. Decant the aqueous phase and wash the ether phase with 1 N NaOH, followed by water and saturated sodium chloride solution. The ether phase was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to a glassy solid, 2.13 g. The product was identified by 1H NMR, MS [M--H]+ =650 Da.

reactant | 5-Hydroxy-3-(7-methoxy-benzo[1,3]dioxol-5-yl)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | 6.06 mmol, 3.25 g | OC1(C(=C(C(O1)=O)C1=CC2=C(OCO2)C(=C1)OC)CC1=CC(=C(C(=C1)OC)OC)OC)C1=CC=C(C=C1)OC | C29H28O10
reactant | 4-(2-Hydroxyethyl)morpholine | 24.76 mmol, 3.24 g | OCCN1CCOCC1 | C6H13NO2
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | 3-(7-Methoxy-benzo[1,3]dioxol-5-yl)-5-(4-methoxy-phenyl)-5-(2-morpholin-4-yl-ethoxy)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | COC1=CC(=CC2=C1OCO2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(OCCN2CCOCC2)C2=CC=C(C=C2)OC)=O | C35H39NO11
